### PR TITLE
Pomsets as quotient types

### PR DESCRIPTION
**Pull request by eupp**
This PR features an implementation of a pomset as a quotient type over finitely supported labeled posets.

### CODE REVIEW

File: theories/common/utils.v [hunk 1]
```diff
@@ -368,6 +370,14 @@ Proof.
   by move=> H x; apply/forallP.  
 Qed.
 
+Lemma forall3P (p : T -> T -> T -> bool) : 
+  reflect (forall x y z, p x y z) [forall x, forall y, forall z, p x y z].
```
Comment (volodeyka) [inline theories/common/utils.v:374]: Maybe introduce notation `[forall x .. z, P]` ?

File: theories/concur/pomset.v [hunk 2]
```diff
@@ -0,0 +1,429 @@
...
+Variable (bot : L) (p : lfsposet E L bot).
+
+Lemma fs_sca_def e1 e2 : 
+  fs_sca p e1 e2 = (e2 != e1) && (fs_ca p e1 e2).
+Proof. done. Qed.
+
+Lemma fs_caP e1 e2 : 
+  reflect ((fs_ica p : hrel E E)^* e1 e2) (fs_ca p e1 e2).
+Proof. 
+  (* TODO: try to simplify proof *)
```
Comment (volodeyka) [inline theories/concur/pomset.v:191]: Maybe use `connectP` lemma?

File: theories/concur/pomset.v [hunk 3]
```diff
@@ -0,0 +1,429 @@
+From Coq Require Import Relations.
+From RelationAlgebra Require Import lattice monoid rel boolean.
+From mathcomp Require Import ssreflect ssrfun ssrbool ssrnat seq.
+From mathcomp Require Import eqtype choice order fintype fingraph finmap.
+From mathcomp Require Import generic_quotient.
+From mathcomp.tarjan Require Import extra acyclic.
```
Comment (volodeyka) [inline theories/concur/pomset.v:6]: What is contained in these libraries?

**Review by volodeyka — APPROVED** [review]

File: theories/concur/pomset.v (hunk 3 above)
Comment (eupp) [reply theories/concur/pomset.v:6]: Definition of relation acyclicity,  `acyclic`, and topological sorting.
See discussion at https://coq.zulipchat.com/#narrow/stream/237664-math-comp-users/topic/topological.20sorting.20in.20mathcomp

File: theories/concur/pomset.v (hunk 2 above)
Comment (eupp) [reply theories/concur/pomset.v:191]: I actually use it in the proof. 
The problem here, however, is that I need to go back-and-forth from versions of relations `fin_ica` and `fin_ca` defined on finite type `finsupp p`, and their versions defined on type `E`. That's a bit cumbersome currently, and might be a subject to simplification in the future.

File: theories/common/utils.v (hunk 1 above)
Comment (eupp) [reply theories/common/utils.v:374]: Would be nice if you'll sketch an implementation of this notation. 
BTW, I think we can actually get rid of `forall3P` and just use `forallPP` and `forallP`, I'll revisit it later.
